US08431573B2
6-Oxo-4-(1-pyrrolidinyl)-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 270 mg (3.80 mmol) of pyrrolidine to give 64 mg (59% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | pyrrolidine | 3.80 mmol, 270 mg | N1CCCC1 | C4H9N
product | 6-Oxo-4-(1-pyrrolidinyl)-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | O=C1C(=C(N=C(N1)CC1=CSC=C1)N1CCCC1)C#N | C14H14N4OS
